US06852863B2
2-amino-N-(2-(3a-(R)-benzyl-3-oxo-2,3,3a,4,6,7-hexahydro-pyrazolo[4,3-c]pyridin-5-yl)-1-(R)benzyloxymethyl-2-oxo-ethyl)isobutyramide;
2-amino-N-(1-(2,4-difluoro-benzyloxymethyl)-2-oxo-2-(3-oxo-3a-pyridin-2-ylmethyl-2-(2,2,2-trifluoro-ethyl)-2,3,3a,4,6,7-hexahydro-pyrazolo[4,3-c]pyridin-5-yl)-ethyl)-2-methyl-propionamide (U.S. Pat. No. 6,110,932) or its L-tartaric acid salt.

reactant | 2-amino-N-(1-(2,4-difluoro-benzyloxymethyl)-2-oxo-2-(3-oxo-3a-pyridin-2-ylmethyl-2-(2,2,2-trifluoro-ethyl)-2,3,3a,4,6,7-hexahydro-pyrazolo[4,3-c]pyridin-5-yl)-ethyl)-2-methyl-propionamide | NC(C(=O)NC(C(N1CC2(C(CC1)=NN(C2=O)CC(F)(F)F)CC2=NC=CC=C2)=O)COCC2=C(C=C(C=C2)F)F)(C)C | C28H31F5N6O4
reactant | L-tartaric acid | C([C@H](O)[C@@H](O)C(=O)O)(=O)O | C4H6O6
product | 2-amino-N-(2-(3a-(R)-benzyl-3-oxo-2,3,3a,4,6,7-hexahydro-pyrazolo[4,3-c]pyridin-5-yl)-1-(R)benzyloxymethyl-2-oxo-ethyl)isobutyramide | NC(C(=O)N[C@@H](C(=O)N1C[C@@]2(C(CC1)=NNC2=O)CC2=CC=CC=C2)COCC2=CC=CC=C2)(C)C | C27H33N5O4
